US04021437
In a process for producing 6-ethylamino-2-picoline by reduction of 6-acetamido-2-picoline, the improvement which comprises reacting 6-acetamido-2-picoline with diborane in an inert non-polar solvent at about 0° to 70° C. to produce 6-ethylamino-2-picoline.

reactant | 6-acetamido-2-picoline | C(C)(=O)NC1=CC=CC(=N1)C | C8H10N2O
reactant | diborane | B#B | B2
product | 6-ethylamino-2-picoline | C(C)NC1=CC=CC(=N1)C | C8H12N2
